US07989457B2
Step I. 4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid
To a solution of 4-[1-(4′-trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid methyl ester (0.048 g, 0.11 mmol) in ethanol (3 mL) is added sodium hydroxide (5.0N, 0.11 mL, 0.54 mmol) and stirred for four hours, acidified with 1.0 N HCl and extracted ethyl acetate three times. Organic layers are dried with sodium sulfate, filtered and concentrated under reduced pressure to provide 0.04 g (0.1 mmol, 89%) of title compound.

reactant | 4-[1-(4′-trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid methyl ester | 0.11 mmol, 0.048 g | COC(C1=CC=C(C=C1)OC(CC)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C25H23F3O3
reactant | sodium hydroxide | 0.54 mmol, 5.0N, 0.11 mL | [OH-].[Na+]
reactant | HCl | 1.0 N | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-[1-(4′-Trifluoromethyl-biphenyl-4-ylmethyl)-propoxy]-benzoic acid | 0.1 mmol, 0.04 g, 89% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC(CC)OC1=CC=C(C(=O)O)C=C1)(F)F | C24H21F3O3
